US07317033B2
b) N-(2-Amino-5-fluorophenyl)-N′-(4-methyl-3-thienyl)thiourea
0.02 mol of 4-fluoro-1,2-diaminobenzene is added to a solution of 0.02 mol of 4-methyl-3-thienyl isothiocyanate in 60 ml of anhydrous THF. The reaction mixture is stirred at room temperature for 2 hours and then allowed to stand overnight, and the solvent is then distilled off under reduced pressure using a rotary evaporator and the oily residue is purified on a silica gel column using a mixture of identical proportions of toluene and ethyl acetate.

reactant | 4-fluoro-1,2-diaminobenzene | 0.02 mol | FC1=CC(=C(C=C1)N)N | C6H7FN2
reactant | 4-methyl-3-thienyl isothiocyanate | 0.02 mol | CC=1C(=CSC1)N=C=S | C6H5NS2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | N-(2-Amino-5-fluorophenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=C(C=C1)F)NC(=S)NC1=CSC=C1C | C12H12FN3S2
